US07981903B2
4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (1.32 g, 5.59 mmol) was dissolved in tetrahydrofuran (50 mL). This solution was treated with potassium carbonate (1.54 g, 11.2 mmol, Aldrich) and cooled to 0° C. Bromoacetyl chloride (0.93 mL, 11 mmol, Fluka) was added (white precipitation observed) and the reaction stirred for 15 min. The reaction mixture was then diluted with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give 1-(bromoacetyl)-4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (assumed 5.59 mmol, 100%). This material was analyzed by 1H NMR (amide rotomers were observed) and taken to bromide displacement reactions directly without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.33 (s, 6 H), 1.75-1.86 (m, 2 H), 3.72-3.82 (m, 2 H), 3.95 (s, 3 H), 4.31-4.69 (two singles at 4.37 and 4.63, 2 H), 7.27 (s, 1 H), 8.28 (very broad singlet, 1 H).

reactant | 4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 5.59 mmol, 1.32 g | CC1(CCNC2=CC(=C(C=C12)OC)[N+](=O)[O-])C | C12H16N2O3
reactant | potassium carbonate | 11.2 mmol, 1.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromoacetyl chloride | 11 mmol, 0.93 mL | BrCC(=O)Cl | C2H2BrClO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(bromoacetyl)-4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 5.59 mmol, 100% | BrCC(=O)N1CCC(C2=CC(=C(C=C12)[N+](=O)[O-])OC)(C)C | C14H17BrN2O4
